// File: TIELO.spi.pex
// Created: Sun Apr 12 08:35:49 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// Nominal Temperature: 30C
// Circuit Temperature: 30C
// 
simulator lang=spectre
subckt PM_TIELO\%VDD ( 1 5 6 7 11 12 31 42 59 64 65 )
c40 ( 65 0 ) capacitor c=0.0628002f //x=1.895 //y=5.2
c41 ( 64 0 ) capacitor c=0.0562416f //x=1.025 //y=5.2
c42 ( 63 0 ) capacitor c=0.00621592f //x=2.04 //y=7.585
c43 ( 62 0 ) capacitor c=0.00597439f //x=1.16 //y=7.585
c44 ( 59 0 ) capacitor c=0.255865f //x=2.34 //y=7.58
c45 ( 42 0 ) capacitor c=0.0294132f //x=1.955 //y=7.585
c46 ( 31 0 ) capacitor c=0.229049f //x=0.86 //y=7.58
c47 ( 28 0 ) capacitor c=0.0219823f //x=1.075 //y=7.585
c48 ( 21 0 ) capacitor c=0.00497863f //x=2.04 //y=7.585
c49 ( 16 0 ) capacitor c=0.00497863f //x=1.16 //y=7.585
c50 ( 13 0 ) capacitor c=0.0585881f //x=2.125 //y=7.585
c51 ( 11 0 ) capacitor c=0.0117213f //x=2.04 //y=7.04
c52 ( 7 0 ) capacitor c=0.0230623f //x=1.955 //y=7.585
c53 ( 5 0 ) capacitor c=0.0116508f //x=1.16 //y=7.04
c54 ( 2 0 ) capacitor c=0.0585881f //x=1.075 //y=7.585
r55 (  57 63 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.125 //y=7.585 //x2=2.04 //y2=7.585
r56 (  57 59 ) resistor r=7.49864 //w=0.367 //l=0.215 //layer=li \
 //thickness=0.1 //x=2.125 //y=7.585 //x2=2.34 //y2=7.585
r57 (  55 65 ) resistor r=23.2727 //w=0.187 //l=0.34 //layer=li \
 //thickness=0.1 //x=2.04 //y=6.925 //x2=2.04 //y2=6.585
r58 (  46 63 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=2.04 //y=7.41 //x2=2.04 //y2=7.585
r59 (  46 55 ) resistor r=33.1979 //w=0.187 //l=0.485 //layer=li \
 //thickness=0.1 //x=2.04 //y=7.41 //x2=2.04 //y2=6.925
r60 (  43 62 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.245 //y=7.585 //x2=1.16 //y2=7.585
r61 (  43 45 ) resistor r=12.3815 //w=0.367 //l=0.355 //layer=li \
 //thickness=0.1 //x=1.245 //y=7.585 //x2=1.6 //y2=7.585
r62 (  42 63 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.955 //y=7.585 //x2=2.04 //y2=7.585
r63 (  42 45 ) resistor r=12.3815 //w=0.367 //l=0.355 //layer=li \
 //thickness=0.1 //x=1.955 //y=7.585 //x2=1.6 //y2=7.585
r64 (  41 64 ) resistor r=23.2727 //w=0.187 //l=0.34 //layer=li \
 //thickness=0.1 //x=1.16 //y=6.925 //x2=1.16 //y2=6.585
r65 (  32 62 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=1.16 //y=7.41 //x2=1.16 //y2=7.585
r66 (  32 41 ) resistor r=33.1979 //w=0.187 //l=0.485 //layer=li \
 //thickness=0.1 //x=1.16 //y=7.41 //x2=1.16 //y2=6.925
r67 (  28 62 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.075 //y=7.585 //x2=1.16 //y2=7.585
r68 (  28 31 ) resistor r=7.49864 //w=0.367 //l=0.215 //layer=li \
 //thickness=0.1 //x=1.075 //y=7.585 //x2=0.86 //y2=7.585
r69 (  25 55 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=2.04 //y=6.925 //x2=2.04 //y2=6.925
r70 (  20 41 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.16 //y=6.925 //x2=1.16 //y2=6.925
r71 (  15 59 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=2.34 //y=7.58 //x2=2.34 //y2=7.58
r72 (  13 21 ) resistor r=0.028033 //w=0.35 //l=0.085 //layer=m1 \
 //thickness=0.36 //x=2.125 //y=7.585 //x2=2.04 //y2=7.585
r73 (  13 15 ) resistor r=0.0767857 //w=0.35 //l=0.215 //layer=m1 \
 //thickness=0.36 //x=2.125 //y=7.585 //x2=2.34 //y2=7.585
r74 (  12 21 ) resistor r=0.0413265 //w=0.7 //l=0.175 //layer=m1 \
 //thickness=0.36 //x=2.04 //y=7.41 //x2=2.04 //y2=7.585
r75 (  11 25 ) resistor r=0.0717383 //w=0.224 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=2.04 //y=7.04 //x2=2.04 //y2=6.925
r76 (  11 12 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=2.04 //y=7.04 //x2=2.04 //y2=7.41
r77 (  8 16 ) resistor r=0.028033 //w=0.35 //l=0.085 //layer=m1 \
 //thickness=0.36 //x=1.245 //y=7.585 //x2=1.16 //y2=7.585
r78 (  7 21 ) resistor r=0.028033 //w=0.35 //l=0.085 //layer=m1 \
 //thickness=0.36 //x=1.955 //y=7.585 //x2=2.04 //y2=7.585
r79 (  6 16 ) resistor r=0.0413265 //w=0.7 //l=0.175 //layer=m1 \
 //thickness=0.36 //x=1.16 //y=7.41 //x2=1.16 //y2=7.585
r80 (  5 20 ) resistor r=0.0717383 //w=0.224 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.16 //y=7.04 //x2=1.16 //y2=6.925
r81 (  5 6 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.16 //y=7.04 //x2=1.16 //y2=7.41
r82 (  4 31 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 //x=0.86 \
 //y=7.58 //x2=0.86 //y2=7.58
r83 (  2 16 ) resistor r=0.028033 //w=0.35 //l=0.085 //layer=m1 \
 //thickness=0.36 //x=1.075 //y=7.585 //x2=1.16 //y2=7.585
r84 (  2 4 ) resistor r=0.0767857 //w=0.35 //l=0.215 //layer=m1 \
 //thickness=0.36 //x=1.075 //y=7.585 //x2=0.86 //y2=7.585
r85 (  1 45 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=1.6 \
 //y=7.58 //x2=1.6 //y2=7.58
r86 (  1 7 ) resistor r=0.142685 //w=0.311 //l=0.355 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=7.585 //x2=1.955 //y2=7.585
r87 (  1 8 ) resistor r=0.142685 //w=0.311 //l=0.355 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=7.585 //x2=1.245 //y2=7.585
ends PM_TIELO\%VDD

subckt PM_TIELO\%YN ( 1 2 3 4 16 )
c34 ( 16 0 ) capacitor c=0.00875932f //x=1.415 //y=1.085
c35 ( 4 0 ) capacitor c=0.0183419f //x=1.6 //y=1.295
c36 ( 1 0 ) capacitor c=0.0745853f //x=1.6 //y=2.4
r37 (  10 16 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 //x=1.6 \
 //y=1.18 //x2=1.6 //y2=1.18
r38 (  4 10 ) resistor r=0.0717383 //w=0.224 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=1.295 //x2=1.6 //y2=1.18
r39 (  2 3 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=2.77 //x2=1.6 //y2=3.14
r40 (  1 2 ) resistor r=0.353053 //w=0.131 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=2.4 //x2=1.6 //y2=2.77
r41 (  1 4 ) resistor r=1.05439 //w=0.131 //l=1.105 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=2.4 //x2=1.6 //y2=1.295
ends PM_TIELO\%YN

subckt PM_TIELO\%noxref_3 ( 1 2 4 8 13 18 23 30 31 32 33 34 35 36 40 41 42 44 \
 50 51 53 61 )
c85 ( 53 0 ) capacitor c=0.0574912f //x=1.23 //y=2.26
c86 ( 51 0 ) capacitor c=0.0452699f //x=1.87 //y=1.43
c87 ( 50 0 ) capacitor c=0.0199707f //x=1.87 //y=1.085
c88 ( 44 0 ) capacitor c=0.0165515f //x=1.715 //y=1.585
c89 ( 42 0 ) capacitor c=0.0157807f //x=1.715 //y=0.93
c90 ( 41 0 ) capacitor c=0.0551945f //x=1.455 //y=4.97
c91 ( 40 0 ) capacitor c=0.0371073f //x=1.745 //y=4.97
c92 ( 36 0 ) capacitor c=0.0301471f //x=1.34 //y=2.095
c93 ( 35 0 ) capacitor c=0.0255349f //x=1.34 //y=1.74
c94 ( 34 0 ) capacitor c=0.0234346f //x=1.34 //y=1.43
c95 ( 33 0 ) capacitor c=0.0200381f //x=1.34 //y=1.085
c96 ( 32 0 ) capacitor c=0.153904f //x=1.82 //y=6.2
c97 ( 31 0 ) capacitor c=0.153906f //x=1.38 //y=6.2
c98 ( 23 0 ) capacitor c=0.025814f //x=1.6 //y=5.565
c99 ( 18 0 ) capacitor c=0.00139409f //x=1.23 //y=4.88
c100 ( 13 0 ) capacitor c=4.51414e-19 //x=1.23 //y=2.26
c101 ( 8 0 ) capacitor c=0.0240922f //x=1.23 //y=4.88
c102 ( 4 0 ) capacitor c=0.0193076f //x=1.6 //y=5.45
c103 ( 2 0 ) capacitor c=0.133033f //x=1.23 //y=4.765
c104 ( 1 0 ) capacitor c=0.0104645f //x=1.23 //y=2.375
r105 (  53 54 ) resistor r=17.5563 //w=0.302 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.23 //y=2.26 //x2=1.34 //y2=2.26
r106 (  51 60 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.43 //x2=1.83 //y2=1.585
r107 (  50 59 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.085 //x2=1.83 //y2=0.93
r108 (  50 51 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.87 //y=1.085 //x2=1.87 //y2=1.43
r109 (  45 58 ) resistor r=10.701 //w=0.21 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.495 //y=1.585 //x2=1.38 //y2=1.585
r110 (  44 60 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.715 //y=1.585 //x2=1.83 //y2=1.585
r111 (  43 57 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.495 //y=0.93 //x2=1.38 //y2=0.93
r112 (  42 59 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.715 //y=0.93 //x2=1.83 //y2=0.93
r113 (  42 43 ) resistor r=112.809 //w=0.094 //l=0.22 //layer=ply \
 //thickness=0.18 //x=1.715 //y=0.93 //x2=1.495 //y2=0.93
r114 (  40 47 ) resistor r=26.9307 //w=0.15 //l=0.106066 //layer=ply \
 //thickness=0.18 //x=1.745 //y=4.97 //x2=1.82 //y2=5.045
r115 (  40 41 ) resistor r=148.702 //w=0.094 //l=0.29 //layer=ply \
 //thickness=0.18 //x=1.745 //y=4.97 //x2=1.455 //y2=4.97
r116 (  37 41 ) resistor r=23.4449 //w=0.285 //l=0.106066 //layer=ply \
 //thickness=0.18 //x=1.38 //y=5.045 //x2=1.455 //y2=4.97
r117 (  37 56 ) resistor r=25.3684 //w=0.285 //l=0.22798 //layer=ply \
 //thickness=0.18 //x=1.38 //y=5.045 //x2=1.23 //y2=4.88
r118 (  36 54 ) resistor r=19.1248 //w=0.302 //l=0.165 //layer=ply \
 //thickness=0.18 //x=1.34 //y=2.095 //x2=1.34 //y2=2.26
r119 (  35 58 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.74 //x2=1.38 //y2=1.585
r120 (  35 36 ) resistor r=182.032 //w=0.094 //l=0.355 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.74 //x2=1.34 //y2=2.095
r121 (  34 58 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.43 //x2=1.38 //y2=1.585
r122 (  33 57 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.085 //x2=1.38 //y2=0.93
r123 (  33 34 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.34 //y=1.085 //x2=1.34 //y2=1.43
r124 (  32 47 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.82 //y=6.2 //x2=1.82 //y2=5.045
r125 (  31 37 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.38 //y=6.2 //x2=1.38 //y2=5.045
r126 (  30 44 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.605 //y=1.585 //x2=1.715 //y2=1.585
r127 (  30 45 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.605 //y=1.585 //x2=1.495 //y2=1.585
r128 (  23 61 ) resistor r=23.2727 //w=0.187 //l=0.34 //layer=li \
 //thickness=0.1 //x=1.6 //y=5.565 //x2=1.6 //y2=5.905
r129 (  18 56 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=1.23 //y=4.88 //x2=1.23 //y2=4.88
r130 (  13 53 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=1.23 //y=2.26 //x2=1.23 //y2=2.26
r131 (  11 23 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.6 //y=5.565 //x2=1.6 //y2=5.565
r132 (  8 18 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.23 //y=4.88 //x2=1.23 //y2=4.88
r133 (  6 13 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.23 //y=2.26 //x2=1.23 //y2=2.26
r134 (  4 11 ) resistor r=0.0736517 //w=0.208 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=5.45 //x2=1.6 //y2=5.565
r135 (  3 8 ) resistor r=0.226716 //w=0.204 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=4.895 //x2=1.23 //y2=4.895
r136 (  3 4 ) resistor r=0.462786 //w=0.131 //l=0.485 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=4.965 //x2=1.6 //y2=5.45
r137 (  2 8 ) resistor r=0.0185111 //w=0.204 //l=0.13 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=4.765 //x2=1.23 //y2=4.895
r138 (  1 6 ) resistor r=0.0717383 //w=0.224 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.375 //x2=1.23 //y2=2.26
r139 (  1 2 ) resistor r=2.28053 //w=0.131 //l=2.39 //layer=m1 \
 //thickness=0.36 //x=1.23 //y=2.375 //x2=1.23 //y2=4.765
ends PM_TIELO\%noxref_3

subckt PM_TIELO\%GND ( 1 5 6 13 26 34 36 41 58 )
c37 ( 58 0 ) capacitor c=0.0597215f //x=0.985 //y=0.545
c38 ( 46 0 ) capacitor c=0.00455148f //x=2.09 //y=0.795
c39 ( 41 0 ) capacitor c=0.0204904f //x=2.005 //y=0.71
c40 ( 37 0 ) capacitor c=0.00481684f //x=1.12 //y=0.795
c41 ( 36 0 ) capacitor c=0.286708f //x=1.97 //y=0.18
c42 ( 34 0 ) capacitor c=0.199441f //x=1.23 //y=0.18
c43 ( 26 0 ) capacitor c=0.00235215f //x=1.6 //y=0.71
c44 ( 22 0 ) capacitor c=0.0886416f //x=2.09 //y=0.175
c45 ( 16 0 ) capacitor c=0.0574309f //x=1.12 //y=0.175
c46 ( 13 0 ) capacitor c=0.0180308f //x=2.09 //y=0.595
c47 ( 10 0 ) capacitor c=2.53033e-19 //x=1.975 //y=0.71
c48 ( 9 0 ) capacitor c=0.00219079f //x=1.6 //y=0.595
c49 ( 5 0 ) capacitor c=0.0168773f //x=1.12 //y=0.595
r50 (  46 58 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li \
 //thickness=0.1 //x=2.09 //y=0.795 //x2=2.09 //y2=0.67
r51 (  46 58 ) resistor r=41.4118 //w=0.187 //l=0.605 //layer=li \
 //thickness=0.1 //x=2.09 //y=0.795 //x2=2.09 //y2=1.4
r52 (  42 58 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=1.205 //y=0.71 //x2=1.12 //y2=0.67
r53 (  42 58 ) resistor r=27.0374 //w=0.187 //l=0.395 //layer=li \
 //thickness=0.1 //x=1.205 //y=0.71 //x2=1.6 //y2=0.71
r54 (  41 58 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=2.005 //y=0.71 //x2=2.09 //y2=0.67
r55 (  41 58 ) resistor r=27.7219 //w=0.187 //l=0.405 //layer=li \
 //thickness=0.1 //x=2.005 //y=0.71 //x2=1.6 //y2=0.71
r56 (  37 58 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.795 //x2=1.12 //y2=0.67
r57 (  37 58 ) resistor r=41.4118 //w=0.187 //l=0.605 //layer=li \
 //thickness=0.1 //x=1.12 //y=0.795 //x2=1.12 //y2=1.4
r58 (  34 36 ) resistor r=25.8093 //w=0.367 //l=0.74 //layer=li \
 //thickness=0.1 //x=1.23 //y=0.175 //x2=1.97 //y2=0.175
r59 (  28 58 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=2.09 //y=0.71 //x2=2.09 //y2=0.71
r60 (  26 58 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 //x=1.6 \
 //y=0.71 //x2=1.6 //y2=0.71
r61 (  24 58 ) resistor r=9.3 //w=0.17 //l=0.17 //layer=mcon //count=1 \
 //x=1.12 //y=0.71 //x2=1.12 //y2=0.71
r62 (  21 36 ) resistor r=4.65 //w=0.17 //l=0.34 //layer=mcon //count=2 \
 //x=1.97 //y=0.18 //x2=1.97 //y2=0.18
r63 (  21 22 ) resistor r=0.0482315 //w=0.311 //l=0.12 //layer=m1 \
 //thickness=0.36 //x=1.97 //y=0.175 //x2=2.09 //y2=0.175
r64 (  18 34 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 \
 //x=1.23 //y=0.18 //x2=1.23 //y2=0.18
r65 (  16 18 ) resistor r=0.0442122 //w=0.311 //l=0.11 //layer=m1 \
 //thickness=0.36 //x=1.12 //y=0.175 //x2=1.23 //y2=0.175
r66 (  13 28 ) resistor r=0.0349206 //w=0.17 //l=0.165 //layer=m1 \
 //thickness=0.36 //x=2.09 //y=0.595 //x2=2.09 //y2=0.76
r67 (  12 22 ) resistor r=0.0509631 //w=0.35 //l=0.175 //layer=m1 \
 //thickness=0.36 //x=2.09 //y=0.35 //x2=2.09 //y2=0.175
r68 (  12 13 ) resistor r=0.233779 //w=0.131 //l=0.245 //layer=m1 \
 //thickness=0.36 //x=2.09 //y=0.35 //x2=2.09 //y2=0.595
r69 (  11 26 ) resistor r=0.0529306 //w=0.17 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.715 //y=0.71 //x2=1.6 //y2=0.71
r70 (  10 28 ) resistor r=0.0349206 //w=0.17 //l=0.13775 //layer=m1 \
 //thickness=0.36 //x=1.975 //y=0.71 //x2=2.09 //y2=0.76
r71 (  10 11 ) resistor r=0.248092 //w=0.131 //l=0.26 //layer=m1 \
 //thickness=0.36 //x=1.975 //y=0.71 //x2=1.715 //y2=0.71
r72 (  9 26 ) resistor r=0.0137558 //w=0.34 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.595 //x2=1.6 //y2=0.71
r73 (  8 9 ) resistor r=0.233779 //w=0.131 //l=0.245 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.35 //x2=1.6 //y2=0.595
r74 (  7 24 ) resistor r=0.0349206 //w=0.17 //l=0.13775 //layer=m1 \
 //thickness=0.36 //x=1.235 //y=0.71 //x2=1.12 //y2=0.76
r75 (  6 26 ) resistor r=0.0529306 //w=0.17 //l=0.115 //layer=m1 \
 //thickness=0.36 //x=1.485 //y=0.71 //x2=1.6 //y2=0.71
r76 (  6 7 ) resistor r=0.23855 //w=0.131 //l=0.25 //layer=m1 //thickness=0.36 \
 //x=1.485 //y=0.71 //x2=1.235 //y2=0.71
r77 (  5 24 ) resistor r=0.0349206 //w=0.17 //l=0.165 //layer=m1 \
 //thickness=0.36 //x=1.12 //y=0.595 //x2=1.12 //y2=0.76
r78 (  4 16 ) resistor r=0.0509631 //w=0.35 //l=0.175 //layer=m1 \
 //thickness=0.36 //x=1.12 //y=0.35 //x2=1.12 //y2=0.175
r79 (  4 5 ) resistor r=0.233779 //w=0.131 //l=0.245 //layer=m1 \
 //thickness=0.36 //x=1.12 //y=0.35 //x2=1.12 //y2=0.595
r80 (  1 21 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.175 //x2=1.97 //y2=0.175
r81 (  1 8 ) resistor r=0.0509631 //w=0.35 //l=0.175 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.175 //x2=1.6 //y2=0.35
r82 (  1 18 ) resistor r=0.148714 //w=0.311 //l=0.37 //layer=m1 \
 //thickness=0.36 //x=1.6 //y=0.175 //x2=1.23 //y2=0.175
ends PM_TIELO\%GND

